US08232403B2
To a mixture of NaH (60% in oil, 43.6 g, 1.09 mol) in DMF (900 mL) is carefully added crude 2-(1,4-dioxaspiro[4.5]dec-8-yl)ethanol (139.5 g) in DMF (300 mL) at 0-5° C., and the mixture is stirred for 30 min at the same temperature. To the mixture is added dropwise benzyl bromide (129.6 mL, 1.09 mol) at 0-5° C., and stirring is continued for 1 hour at the same temperature. After addition of H2O (1000 mL), the mixture is extracted with EtOAc-Hexane (3:1, 1200 mL). The water layer is extracted with EtOAc-Hexane (3:1, 1200 mL×2), and the combined organic layer is washed with brine, dried over magnesium sulfate, and concentrated under reduced pressure to afford crude 8-[2-(benzyloxy)ethyl]-1,4-dioxaspiro[4.5]decane. The crude product is used without further purification.

reactant | NaH | 1.09 mol, 43.6 g | [H-].[Na+]
reactant | 2-(1,4-dioxaspiro[4.5]dec-8-yl)ethanol | 139.5 g | O1CCOC12CCC(CC2)CCO | C10H18O3
reactant | benzyl bromide | 1.09 mol, 129.6 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | H2O | 1000 mL | O | H2O
solvent | DMF | 900 mL | CN(C)C=O | C3H7NO
solvent | DMF | 300 mL | CN(C)C=O | C3H7NO
product | 8-[2-(benzyloxy)ethyl]-1,4-dioxaspiro[4.5]decane | C(C1=CC=CC=C1)OCCC1CCC2(OCCO2)CC1 | C17H24O3
